US07396844B1
Synthesis of D-4-iodophenylalanine
12.3 g (48 mmol) of iodine and 5.1 g (24 mmol) of sodium iodate were added to 20 g (121 mmol) of D-phenylalanine, 14.5 ml of concentrated sulfuric acid and 110 ml of acetic acid, and they were stirred for 24 hours. After cooling, 0.5 g of sodium periodate was added thereto, and the solvent was evaporated at 35° C. under reduced pressure. Water was added to the reaction mixture and the resultant mixture was washed with dichloromethane trice. The aqueous phase was neutralized with 1 N aqueous sodium hydroxide solution. After cooling, the obtained precipitate was taken by the filtration and then washed with water and ethanol to obtain the crude product.

reactant | iodine | 48 mmol, 12.3 g | II | I2
reactant | sodium iodate | 24 mmol, 5.1 g | I(=O)(=O)[O-].[Na+]
reactant | D-phenylalanine | 121 mmol, 20 g | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | sulfuric acid | 14.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium periodate | 0.5 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | acetic acid | 110 ml | C(C)(=O)O | C2H4O2
product | D-4-iodophenylalanine | C1=CC(=CC=C1C[C@H](C(=O)O)N)I | C9H10INO2
